US07094801B2
Ex-109A: A solution of 2,4-dimethoxy-benzoic acid methyl ester (4.24 g, 21.6 mmol) and hydrazine (3.4 mL, 108.1 mmol) in methanol (50 mL) was refluxed overnight. Solvent was removed under reduced pressure. The residue was re-dissolved in ethyl acetate. The solution of ethyl acetate was washed with saturated solution of sodium bicarbonate and brine, dried over sodium carbonate and concentrated to afford 2,4-dimethoxy-benzoic acid hydrazide (3.31 g, 78%) as a white solid: 1H NMR (CDCl3) δ 8.77 (bs, 1H), 8.15 (d, J=8.8 Hz, 1H), 6.58 (dd, J=8.8, 2.2 Hz, 1H), 6.46 (d, J=2.2 Hz, 1H), 4.10 (bs, 2H), 3.91 (s, 3H), 3.83 (s, 3H).

reactant | 2,4-dimethoxy-benzoic acid methyl ester | 21.6 mmol, 4.24 g | COC(C1=C(C=C(C=C1)OC)OC)=O | C10H12O4
reactant | hydrazine | 108.1 mmol, 3.4 mL | NN | H4N2
solvent | methanol | 50 mL | CO | CH4O
product | 2,4-dimethoxy-benzoic acid hydrazide | 3.31 g, 78% | COC1=C(C(=O)NN)C=CC(=C1)OC | C9H12N2O3
